US05260388
Next, a glass reaction vessel equipped with a stirrer, reflux condenser and a thermometer was charged with 82.4 g (0.2 mole) of the above 1,3-bis(3-nitro-4-fluorobenzoyl) benzene, 820 ml of a 80% aqueous ethanol solution and 82.0 g (1.46 mole) of iron powder were charged and the internal temperature was raised to 65° C. Successively, a solution containing 6.08 g of 36% hydrochloric acid in 80 ml of 80% ethanol was added dropwise over 2 hours and the reaction was continued further for an hour with stirring. The reaction mixture was cooled to room temperature and filtered. The residue obtained was dissolved in 280 g of hot 2-methoxyethanol and hot filtered to remove iron powder. The filtrate was poured into 2 l of water. The precipitated crystals were filtered, washed with water and dried to obtain 63.5 g of crude crystals of 1,3-bis(3-amino-4-fluorobenzoyl) benzene. The crude crystals were mixed with 120 ml of water, 36% hydrochloric acid and activated carbon, and dissolved by heating. The solution was hot filtered. To the filtrate, 12 g of sodium chloride was added and dissolved. The solution thus obtained was gradually cooled to precipitate 1,3-bis(3-amino-4-fluorobenzoyl)benzene hydrochloride. The hydrochloride was filtered and neutralized in water with a 28% aqueous ammonia solution to obtain 58.4 g (83.0% yield) of 1,3-bis(3-amino-4-fluorobenzoyl)benzene. The purified product had purity of 99.1% by high performance liquid chromatography and a melting point of 169.7°-170.7° C.

reactant | 1,3-bis(3-nitro-4-fluorobenzoyl) benzene | 0.2 mole, 82.4 g | [N+](=O)([O-])C=1C=C(C(=O)C2=CC(=CC=C2)C(C2=CC(=C(C=C2)F)[N+](=O)[O-])=O)C=CC1F | C20H10F2N2O6
reactant | hydrochloric acid | 6.08 g | Cl | ClH
reactant | water | 120 ml | O | H2O
reactant | sodium chloride | 12 g | [Cl-].[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | 2-methoxyethanol | 280 g | COCCO | C3H8O2
catalyst | iron | 1.46 mole, 82.0 g | [Fe] | Fe
product | 1,3-bis(3-amino-4-fluorobenzoyl)benzene | 58.4 g, 83.0% yield | NC=1C=C(C(=O)C2=CC(=CC=C2)C(C2=CC(=C(C=C2)F)N)=O)C=CC1F | C20H14F2N2O2
